US09416080B2
c-C6H11—OtBu
Into a pressure vessel cyclohexane (15 mL) was added. To this stirring solution was added 5 mol % of a stock solution of {[Cl2NN]Cu}2(benzene) from the catalyst stock solution described in Example 4 (1.00 mL=0.05 mmol). After adding of tert-butyl peroxide (220 μL, 1.2 mmol), the pressure vessel was sealed and heated to 90° C. for 24 hr. The catalyst was separated by exposing the mixture to air and filtering through Celite®. After removing cyclohexane under vacuum, the residue was analyzed by 1H NMR and GC/MS to determine the yield and consumption of starting materials. 1H NMR yield: 50%.

reactant | tert-butyl peroxide | 1.2 mmol, 220 μL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | cyclohexane | 15 mL | C1CCCCC1 | C6H12
product | c-C6H11—OtBu | yield: 50% | C1(CCCCC1)OC(C)(C)C | C10H20O
